US07589206B2
N-(3-Chlorophenyl)-1-methyl-7-(4-thiomorpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine
To a solution of 4-[(3-chlorophenyl)amino]-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid (0.2 g) in dimethylformamide (5 ml) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (0.15 g), 1-hydroxybenzotriazole (0.14 g), N-ethylmorpholine (0.34 ml) and thiomorpholine (0.13 ml). The solution was stirred at room temperature overnight. The reaction was diluted with water and extracted three times with ethyl acetate. The ethyl acetate layers were combined, washed with saturated sodium bicarbonate solution followed by saturated sodium chloride solution then dried (MgSO4) and evaporated. The residue was purified by MDAP to afford the title compound as a white solid (236 mg).

reactant | 4-[(3-chlorophenyl)amino]-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid | 0.2 g | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2C)C(=O)O | C15H12ClN3O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 0.15 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.14 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 0.34 ml | C(C)N1CCOCC1 | C6H13NO
reactant | thiomorpholine | 0.13 ml | N1CCSCC1 | C4H9NS
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(3-Chlorophenyl)-1-methyl-7-(4-thiomorpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine | 236 mg | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2C)C(=O)N2CCSCC2 | C19H19ClN4OS
